US05753664
3,5-Dimethyl-2-[4-[4-[2-(4-methylpiperazinyl)ethoxy]benzoyl]benzylthio]-4(3H)-quinazolinone dihydrochloride
A solution of 2-[4-[4-(2-chloroethoxy]benzoyl]benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (173 mg) and 1-methylpiperazine (0.12 ml) in DMF (5 ml) was stirred at 100° C. for 15 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, and dried. Then, hydrogen chloride/ethyl acetate was added and the precipitated hydrochloride was collected by filtration and dried to provide the title compound as colorless solid (122 mg).

reactant | 2-[4-[4-(2-chloroethoxy]benzoyl]benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 173 mg | ClCCOC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C26H23ClN2O3S
reactant | 1-methylpiperazine | 0.12 ml | CN1CCNCC1 | C5H12N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-[2-(4-methylpiperazinyl)ethoxy]benzoyl]benzylthio]-4(3H)-quinazolinone dihydrochloride | 122 mg | Cl.Cl.CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCN1CCN(CC1)C)=O | InChI=1S/C31H34N4O3S.2ClH/c1-22-5-4-6-27-28(22)30(37)34(3)31(32-27)39-21-23-7-9-24(10-8-23)29(36)25-11-13-26(14-12-25)38-20-19-35-17-15-33(2)16-18-35;;/h4-14H,15-21H2,1-3H3;2*1H
